### PR TITLE
[Merged by Bors] - feat: simple lie algebras have irreducible root systems

### PR DESCRIPTION
**Pull request by jano-wol**
Simple lie algebras have irreducible root systems

---
PR shows that simple lie algebras have irreducible root systems.
This work is part of the framework: https://github.com/orgs/leanprover-community/projects/17
Issue link: https://github.com/leanprover-community/mathlib4/issues/22831

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Algebra/Lie/Weights/RootSystem.lean [hunk 1]
```diff
@@ -422,4 +423,179 @@ instance : (rootSystem H).IsReduced where
...
+open LieModule Module
+open LieModule Weight
+
+lemma invtSubmodule_reflection:
+   ∀ (q : Submodule K (Dual K H)), (∀ (i : H.root), q ∈ End.invtSubmodule
+      ((rootSystem H).reflection i)) → q ≠ ⊥ → q = ⊤ := by
+  have _i := nontrivial_of_isIrreducible K L L
+  let S := rootSystem H
+  by_contra!
+  obtain ⟨q, h₀, h₁, h₃⟩ := this
```
Comment (ocfnash) [inline Mathlib/Algebra/Lie/Weights/RootSystem.lean:441]:
```suggestion
section IsSimple

-- Note that after #10068 (Cartan's criterion) is complete we can omit `[IsKilling K L]`
variable [IsSimple K L]

open Weight in
lemma eq_top_of_invtSubmodule_ne_bot
   (q : Submodule K (Dual K H))
   (h₀ : ∀ (i : H.root), q ∈ End.invtSubmodule ((rootSystem H).reflection i))
   (h₁ : q ≠ ⊥) : q = ⊤ := by
  have _i := nontrivial_of_isIrreducible K L L
  let S := rootSystem H
  by_contra h₃
```

File: Mathlib/Algebra/Lie/Weights/RootSystem.lean [hunk 2]
```diff
@@ -422,4 +423,179 @@ instance : (rootSystem H).IsReduced where
...
+  have c₂ : I' ≠ ⊥ := by
+    rw [← h] at s₆
+    exact ne_of_apply_ne (LieIdeal.toLieSubalgebra K L) s₆
+  rcases this with h_bot | h_top
+  · contradiction
+  · contradiction
+
+instance : (rootSystem H).IsIrreducible := by
+  have _i := nontrivial_of_isIrreducible K L L
+  exact RootPairing.IsIrreducible.mk' (rootSystem H).toRootPairing (invtSubmodule_reflection K L H)
```
Comment (ocfnash) [inline Mathlib/Algebra/Lie/Weights/RootSystem.lean:599]:
```suggestion
  exact RootPairing.IsIrreducible.mk' (rootSystem H).toRootPairing <|
    eq_top_of_invtSubmodule_ne_bot H

end IsSimple
```

**Review by ocfnash — APPROVED** [review]
I thought about this some more and I think the fact that we can break out some intermediate results from this proof does not mean we have to wait to merge. It's a maintainable proof of a `Prop`-only result with exactly the right statement.

Please apply the suggestions and then feel free to merge.

Thanks!

bors d+
